US08685969B2
12. 4-(3-(Benzyloxycarbonylamino)-2-fluorophenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxylic acid
To a light orange, homogeneous solution of ethyl 4-(3-(benzyloxycarbonylamino)-2-fluorophenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxylate (0.8002 g, 1.435 mmol) in THF (30.8 mL) and MeOH (10.25 mL) was added a solution of LiOH hydrate (0.241 g, 5.74 mmol) in water (2 mL). After 1.5 hr. the reaction was concentrated in vacuo. Water (10 mL) was added followed by 1 N aqueous HCl to pH 4-5 by litmus paper. The precipitate was filtered and washed with water, dried over Drierite under vacuum to give the desired product (0.705 g, 1.331 mmol, 93% yield) as a tan solid.

reactant | ethyl 4-(3-(benzyloxycarbonylamino)-2-fluorophenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxylate | 1.435 mmol, 0.8002 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)OCC)F | C31H28FN3O6
reactant | LiOH hydrate | 5.74 mmol, 0.241 g | O[Li].O
solvent | THF | 30.8 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10.25 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 4-(3-(Benzyloxycarbonylamino)-2-fluorophenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxylic acid | 1.331 mmol, 0.705 g, 93% yield | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)O)F | C29H24FN3O6
